Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
pulmonary emboli
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ yo male with hx of HTN, RA on MTX recent rotator cuff
surgery at ___ (3 DAYS ago) presents with chest pain. He woke
up this morning with right sided chest pain worse with deep
breaths. No change with exertion or position change. No
hemoptysis or any other associated symptoms. He denies any DOE,
SOB, palpitations, syncope, PND, orthopnea. He went to ED At
___ where he underwent CTA chest that showed segmental
embolus in the anterior segment of right upper lobe, posterior
basilar segment right lower lobe and segmental embolus in the
anterior segment left upper lobe. Furthermore there were
subsegmental emboli in the basilar segments left lower lobe. The
RV/LV ratio was 1.1. EKG negative for RV strain. TnT and BNP
negative.  He was given lovenox and transferred to ___ for
further care. On arrival stable VS, mild tachycardia, no DOE,
stable blood pressure, no oxygen requirement. At ___ ED he was
transitioned to ___ gtt.

ROS:

CONSTITUTIONAL:  No weight loss, fever, chills, weakness or
fatigue.
HEENT:  Eyes:  No visual loss, blurred vision, double vision or
yellow sclerae. Ears, Nose, Throat:  No hearing loss, sneezing,
congestion, runny nose or sore throat.
SKIN:  No rash or itching.
CARDIOVASCULAR:  Positive for chest pain and lower extremity
edema, no palpitations, PND, orthopnea, syncope.
RESPIRATORY:  No shortness of breath, cough or sputum.
GASTROINTESTINAL:  No anorexia, nausea, vomiting or diarrhea. No
abdominal pain or blood.
GENITOURINARY:  Burning on urination. 
NEUROLOGICAL:  No headache, dizziness, syncope, paralysis,
ataxia, numbness or tingling in the extremities. No change in
bowel or bladder control.
MUSCULOSKELETAL:  No muscle, back pain, joint pain or stiffness.
HEMATOLOGIC:  No anemia, bleeding or bruising.
LYMPHATICS:  No enlarged nodes. No history of splenectomy.
PSYCHIATRIC:  No history of depression or anxiety.
ENDOCRINOLOGIC:  No reports of sweating, cold or heat
intolerance. No polyuria or polydipsia.
ALLERGIES:  No history of asthma, hives, eczema or rhinitis
 
Past Medical History:
HTN, RA on MTX recent rotator cuff
surgery at BIDP (3d ago
 
Social History:
___
Family History:
Family History: no premature CAD, SCD, cardiomyopathies or blood
clots. 

 
Physical Exam:
VS:  153/64 HR 94 RR 20 O2 96% on RA, T97.9

General Appearance: pleasant, comfortable, no acute distress
Eyes: PERLL, EOMI, no conjuctival injection, anicteric
ENT: normal carotid upstrokes, no bruits, no supraclavicular or
cervical lymphadenopathy, no JVD
Respiratory: no crackles, wheezing or rhonchi
Cardiovascular: regular tachycardic, S1 and S2 wnl, no murmur, 
rubs or gallops
Abdomen: +b/s, soft, NT, no masses or HSM, no CVA tenderness 
Extremities: no cyanosis, clubbing, 2+ edema, no calf tenderness
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
Neurological: Alert, oriented to self, time, date, reason for
hospitalization. 
Psychiatric: pleasant, appropriate affect

___ 74 99% RA
ALERT AND AWAKE, not confused
clear breath sounds, jvp not elevated, no crackles or wheezs
 not dyspnic or tachypnic
regular pulse and s1 and s2
no peripheral edema
incision to L shoulder clean dry and intact
 
Pertinent Results:
___ 07:50AM BLOOD WBC-7.2 RBC-3.97* Hgb-11.5* Hct-35.1* 
MCV-88 MCH-29.0 MCHC-32.8 RDW-14.7 RDWSD-47.2* Plt ___
___ 07:50AM BLOOD Glucose-102* UreaN-13 Creat-0.7 Na-136 
K-4.3 Cl-101 HCO3-26 AnGap-13
___ 07:20AM BLOOD Mg-1.9

FINDINGS:

PULMONARY VESSELS: There are bilateral pulmonary emboli. There 
is
segmental embolus in the anterior segment right upper lobe. 
There is
segmental embolus in the posterior basilar segment right lower 
lobe
with distal occlusion. There is segmental embolus in the 
anterior
segment left upper lobe. There is subsegmental emboli in the 
basilar
segments left lower lobe. The RV/LV ratio is 1.1. RV/LV ratios 
equal
to or greater than 1.0 are associated with right heart strain. 
The
ventricular septum is flattened which can be an indication of 
right
heart strain.

AORTA: The aorta is not dilated. No dissection is identified.

HEART: The heart is normal in size. There is coronary 
calcification
consistent with an element of coronary artery disease.

NODES: No significant mediastinal or hilar adenopathy is 
identified.

ESOPHAGUS: Unremarkable.

THYROID: There is a 1 cm cyst in the left thyroid.

BRONCHI: The central bronchial tree is unremarkable.

LUNGS: No generalized interstitial disease is identified. No 
edema is
identified. There is peripheral atelectasis at the right base. 
This
demonstrates enhancement without evidence of pulmonary infarct. 
There
is mild atelectasis at the left base

LUNG NODULES: There is an incidental 3 mm calcified granuloma in 
the
right upper lobe axillary region.

PLEURAL SURFACES: There is a small right pleural effusion and a 
trace
left pleural effusion.

UPPER ABDOMEN: There is a 1 cm cyst in the left lobe of liver.

AXILLAE: No axillary adenopathy is identified.

MUSCULOSKELETAL: There are degenerative findings in the spine.

ADDITIONAL FINDINGS: None.

IMPRESSION:
1. Bilateral segmental pulmonary emboli.
2. The RV/LV ratio is 1.1 which could indicate right heart 
strain.
3. Dependent atelectasis at the lung bases, right greater than 
left.
4. Small right and trace left pleural effusions.

___ 04:27PM BLOOD cTropnT-<0.01
___ 04:27PM BLOOD proBNP-___ yo male with hx of HTN, RA on MTX recent rotator cuff surgery 
at BIDP (3 days prior to admission) presents with chest pain and 
found to have bilateral segmental PEs. HDS, no oxygen 
requirement, negative biomarkes.

# PE: provoked given recent surgery ,
clinically low risk PE given lack of hypotension and lack of 
associated biomarker elevations.  deferred echo cardiogram as 
not available prior to discharge and would not change 
management.  Initially managed on heparin drip and then 
transitioned to LMWH and Coumadin.  Reviewed treatment options 
including NOAC, (rivaroxaban) vs. LMWH bridge with Coumadin.  
Given patient's familiarity with Coumadin as wife had been 
treated with this previously and availability of reversal agent 
patient chose to start LMWH bridge and Coumadin.

Coumadin started ___ at 5mg daily along with lovenox 90mg sc 
BID until INR therapeutic ___.  

Duration a minimum of 3months given provoked nature of clot, but 
potentially longer ie 6 months if tolerating anticoagulation 
well

#Rotator Cuff surgery
--I contacted on call line for his ortho Dr. ___ ___ to relay admission for PE and spoke with his PA about 
hospitalization and PE and he will see patient later this week

# HTN
- Metoprolol XL 50 mg qd

# RA
- next dose of methotrexate 20 mg due on ___
- Folic acid 1 mg qd

#Anemia: baseline hematocrit is unknown, but patient is 
currently
anemic. may relate to methotrexate use
- follow CBC serially

# Primary CAD ppx:
--would favor stopping aspirin therapy while anticoagulated to
reduce risk of anticoagulation related hemorrhage given that 
this
is only for primary prophylaxis. 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
acute pulmonary emboli
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
you were hospitalized for blood clots in your lungs called 
pulmonary emboli.  this is treated with a blood thinner.  you 
will be on lovenox shots until Coumadin takes full effect and 
raises your INR to the range of ___ (blood test)

all blood thinners can increase risk of bleeding so let your 
doctor know or seek medical care if you develop signs of 
excessive bleeding or symtpoms of recurrent pulmonary emboli 
such as collapse, fainting, trouble breathing or chest pain

we stopped your aspirin to reduce excess risk of bleeding now 
that you are taking Coumadin given that aspirin was for primary 
cardiac prophylaxis

 
Followup Instructions:
___